US04886814
2-(2-Trifluoromethyl-thiazol-4-yl)morpholine
A solution of 0.9 g (0.036 mol) of 2-(2-trifluoromethyl-thiazol-4-yl)morpholin-5-one in 40 ml of tetrahydrofuran at 3° C. is mixed with 1.35 g (0.036 mol) of sodium borohydride. Then, at 5°-8° C., very slowly and with vigorous stirring 2.43 g (0.036 mol) of glacial acetic acid dissolved in 20 ml of tetrahydrofuran are added dropwise. The cooling is removed after 2 hours, and the mixture is stirred at room temperature for 16 hours. After evaporation to dryness, the resulting residue is mixed with 15 ml of 20% strength hydrochloric acid, and the mixture is heated at 90° C. for 30 minutes. It is then evaporated to dryness, the resulting product is taken up in water, and the solution is made alkaline with sodium carbonate solution. The mixture is then extracted several times with methylene chloride, the organic phase is dried over sodium sulphate and concentrated, and the residue is purified on a silica gel column using ethyl acetate/methanol=8:2 as eluant.

reactant | 2-(2-trifluoromethyl-thiazol-4-yl)morpholin-5-one | 0.036 mol, 0.9 g | FC(C=1SC=C(N1)C1CNC(CO1)=O)(F)F | C8H7F3N2O2S
reactant | sodium borohydride | 0.036 mol, 1.35 g | [BH4-].[Na+]
reactant | acetic acid | 0.036 mol, 2.43 g | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(2-Trifluoromethyl-thiazol-4-yl)morpholine | FC(C=1SC=C(N1)C1CNCCO1)(F)F | C8H9F3N2OS
